US05545644
(R)-5-(2-Ethylsulphonylethyl)-3-(N-methylpyrrolidin-2-ylmethyl)1H-indole
(R)-5-(2-Ethylsulphonylethenyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole (157 mg) was dissolved in a mixture of ethanolic hydrogen chloride [prepared by addition of acetyl chloride (0.043 mL) to ethanol (10 mL)], N,N-dimethylformamide (7.5 mL) and water (0.1 mL) and the solution was shaken under a hydrogen atmosphere (15 psi) at room temperature for 18 hours in the presence of 10% palladium on carbon (150 mg). The mixture was filtered through Arbacel (trade mark) filter aid and the residue was washed well with ethanol. The combined filtrate and washings were evaporated under reduced pressure and the residual oil was partitioned between ethyl acetate and 2M aqueous sodium carbonate solution. The organic layer was separated, washed three times with water followed by brine and then dried (Na2SO4). Evaporation of the solvent gave an oil which was chromatographed on silica gel. Elution with dichloromethane/methanol/concentrated aqueous ammonia (90:10:1) gave the title compound as a gum (110 mg): TLC (CH2Cl2 /C2H5OH/NH3 ; 90:10:1): Rf=0.3; [α]25D =+62° (methanol, c=0.10). Anal. Calcd for C18H26N2O2S. 0.05 CH2Cl2 : C,63.21; H,7.67; N,8.17. Found: C,63.55; H,7.61; N,8.41.

reactant | (R)-5-(2-Ethylsulphonylethenyl)-3-(N-methylpyrrolidin-2-ylmethyl)-1H-indole | 157 mg | C(C)S(=O)(=O)C=CC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C18H24N2O2S
solvent | hydrogen chloride | 0.043 mL | Cl | ClH
solvent | N,N-dimethylformamide | 7.5 mL | CN(C=O)C | C3H7NO
solvent | water | 0.1 mL | O | H2O
catalyst | palladium on carbon | 150 mg | [Pd] | Pd
product | (R)-5-(2-Ethylsulphonylethyl)-3-(N-methylpyrrolidin-2-ylmethyl)1H-indole | 110 mg | C(C)S(=O)(=O)CCC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C18H26N2O2S
